US08008302B2
Intermediate 22: (3R)-1-(4′-fluorobiphenyl-4-yl)-3-methylpiperazine
A mixture of (R)-2-methylpiperazine (2.2 g, 22.1 mmol, 1.0 eq.), tris(dibenzylidene acetone)dipalladium(0) (607 mg, 0.66 mmol, 0.03 eq.) and (+/−)-BINAP (137 mg, 0.22 mmol; 0.01 eq.) in toluene was degassed 15 min under N2. 4-bromo-4′-fluorobiphenyl (4.99 g, 19.9 mmol, 0.90 eq.) was added followed by sodium tert-butoxide (2.97 g, 30.9 mmol, 1.4 eq.). The resulting mixture was heated to 90° C. for 14 h. The reaction was cooled to room temperature, filtered on a bed of cellite and washed with Et2O. The combined organic layers were then washed with H2O (3×), dried over MgSO4, filtered and evaporated to give a dark brown oil. This residue was purified by chromatography on silica gel (DCM/MeOH 20/80) to give the title product as off white solid (3.0 g, 50%) M+(ESI): 271.3. HPLC (Condition A), Rt: 2.8 min (HPLC purity: 99.8%).

reactant | (R)-2-methylpiperazine | 22.1 mmol, 2.2 g, 1.0 eq. | C[C@H]1NCCNC1 | C5H12N2
reactant | (+/−)-BINAP | 0.22 mmol, 137 mg, 0.01 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 4-bromo-4′-fluorobiphenyl | 19.9 mmol, 4.99 g, 0.90 eq. | BrC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8BrF
reactant | sodium tert-butoxide | 30.9 mmol, 2.97 g, 1.4 eq. | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone)dipalladium(0) | 0.66 mmol, 607 mg, 0.03 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3R)-1-(4′-fluorobiphenyl-4-yl)-3-methylpiperazine | FC1=CC=C(C=C1)C1=CC=C(C=C1)N1C[C@H](NCC1)C | C17H19FN2
